US05866566
10,11-dihydro-10-ethoxycarbonyloxyimino-5H-dibenz[b,f]azepine-5-carboxamide
To a suspension of 0.2 g (0.74 mmol) of 10,11-dihydro-10-hydroxyimino-5H-dibenz[b,f]azepine-5-carboxamide and 0.01 g (0.08 mmol) of 4-dimethylaminopyridine in 10 mL of dichloromethane and 0.29 g (3.7 mmol) of pyridine was added 0.28 g (2.6 mmol) of ethyl chloroformate dropwise. The resulting mixture was stirred at room temperature for 2 hours whereupon it was extracted with 20 mL of 1M aqueous HCl and a saturated solution of NaHCO3, then dried by sodium sulphate and filtered. The solvent was removed by evaporation under reduced pressure and the residue was crystallised from a mixture of dichloromethane and ethyl acetate to give white crystals of m.p. 188.9°-190° C.

reactant | 10,11-dihydro-10-hydroxyimino-5H-dibenz[b,f]azepine-5-carboxamide | 0.74 mmol, 0.2 g | ON=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C15H13N3O2
reactant | pyridine | 3.7 mmol, 0.29 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 2.6 mmol, 0.28 g | ClC(=O)OCC | C3H5ClO2
catalyst | 4-dimethylaminopyridine | 0.08 mmol, 0.01 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 10,11-dihydro-10-ethoxycarbonyloxyimino-5H-dibenz[b,f]azepine-5-carboxamide | C(C)OC(=O)ON=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C18H17N3O4
